US04031069
Nα-t-Butoxycarbonyl-L-tryptophyl-O-benzyl-L-seryl-O-benzyl-D-tyrosyl-D-alanine methyl ester
Nα-t-Butoxycarbonyl-L-tryptophyl-O-benzyl-L-seryl-O-benzyl-D-tyrosyl-D-alanine resin is obtained according to the procedure of Example 1 by treating 20 g. of Nα-t-butoxycarbonyl-D-alanine resin, 0.0132 mol, with 7.4 g., 0.02 mol, of Nα-t-butoxycarbonyl-O-benzyl-D-tyrosine and 4.1 g., 0.02 mol, of dicyclohexylcarbodiimide, (2) 6.0 g., 0.02 mol, of Nα-t-butoxycarbonyl-O-benzyl-L-serine and 4.1 g. of dicyclohexylcarbodiimide, and (3) 6.1 g. of Nα-t-butoxycarbonyl-L-tryptophan and 4.1 g. of dicyclohexylcarbodiimide.

reactant | Nα-t-butoxycarbonyl-D-alanine | C(C)(C)(C)OC(=O)N[C@H](C)C(=O)O | C8H15NO4
reactant | Nα-t-butoxycarbonyl-O-benzyl-D-tyrosine | C(C)(C)(C)OC(=O)N[C@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O | C21H25NO5
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Nα-t-butoxycarbonyl-O-benzyl-L-serine | C(C)(C)(C)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | Nα-t-butoxycarbonyl-L-tryptophan | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C16H20N2O4
product | Nα-t-Butoxycarbonyl-L-tryptophyl-O-benzyl-L-seryl-O-benzyl-D-tyrosyl-D-alanine methyl ester | COC([C@H](NC([C@H](NC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O)COCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)C)=O | C46H53N5O9
